US05541229
d) Tert.butyl 4'-[(2-n-butyl-6-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
tert.butyl 4 '-[(2-n-butyl-6-methoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.65 (Silica gel: methylethylketone/xylene=1:2)

reactant | tert.butyl 4 '-[(2-n-butyl-6-methoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)OC | C30H34N2O3
reactant | methylethylketone xylene | CC(=O)CC.C=1(C(=CC=CC1)C)C
product | Tert.butyl 4'-[(2-n-butyl-6-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)C | C30H34N2O2
